US07622479B2
Phosphorus pentaoxide (2.84 g) was added to methanesulfonic acid (10 ml) and the mixture was stirred at 100° C. for 1 hour to give a solution. To the solution were added 2-amino-4-bromophenol (1.88 g) and trans-cinnamic acid (1.48 g), and the mixture was stirred at 100° C. for 1.5 hours. The reaction mixture was poured onto ice, neutralized with an 8 N sodium hydroxide and extracted with ethyl acetate-tetrahydrofuran (3:1, v/v). The organic layer was washed with water and dried over MgSO4. The solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography. The fraction eluted with ethyl acetate-hexane (1:3, v/v) was concentrated under reduced pressure. The resulting crystals were collected by filtration to obtain 5-bromo-2-[(E)-2-phenylethenyl]benzoxazole (966 mg, 32%).

reactant | Phosphorus pentaoxide | 2.84 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2-amino-4-bromophenol | 1.88 g | NC1=C(C=CC(=C1)Br)O | C6H6BrNO
reactant | trans-cinnamic acid | 1.48 g | C(\C=C\C1=CC=CC=C1)(=O)O | C9H8O2
reactant | sodium hydroxide | 8 N | [OH-].[Na+]
solvent | methanesulfonic acid | 10 ml | CS(=O)(=O)O | CH4O3S
product | 5-bromo-2-[(E)-2-phenylethenyl]benzoxazole | 966 mg, 32% | BrC=1C=CC2=C(N=C(O2)\C=C\C2=CC=CC=C2)C1 | C15H10BrNO
